US05112988
Triethyloxonium tetrafluoroborate (4 g) is added to a solution of (3aR,7aR)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]perhydro-4-isoindolone (7.7 g) in anhydrous dichloromethane (13 cc). The reaction mixture is left stirring for 20 hours at room temperature; the mixture is then cooled to -15° C. and thereafter a 5.4N ethanolic solution (2.6 cc) of ammonia is added. The reaction mixture is allowed to return to room temperature and stirring is continued for 5 hours and a half. The reaction mixture is treated with 10% strength aqueous potassium carbonate solution (20 cc); the precipitate formed is drained and washed with dichloromethane (10 cc). The organic phases are combined, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in acetonitrile (10 cc); the crystals obtained are drained, washed with acetonitrile (5 cc) and with isopropyl ether (10 cc) and dried. They are then chromatographed on a column of Pechiney CBT1 neutral alumina gel (diameter 4.5 cm, height 28 cm), eluting with a mixture (200 cc) of 1,2-dichloroethane and methanol (98:2 by volume) and then with a mixture of 1,2-dichloroethane and methanol (90:10 by volume) and collecting 25-cc fractions. Fractions 8 to 31 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized in acetonitrile (10 cc); the crystals obtained are drained and dried. (3aR,7aR)-2-[1-Imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenylperhydro-4-isoindolone (1.6 g), m.p. 190° C., is obtained; [α]D20 =-254° (c=1, methanol).

reactant | Triethyloxonium tetrafluoroborate | 4 g | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | (3aR,7aR)-7,7-diphenyl-2-[(2-methoxyphenyl)acetyl]perhydro-4-isoindolone | 7.7 g | C1(=CC=CC=C1)C1(CCC([C@H]2CN(C[C@@H]12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C29H29NO3
reactant | ammonia | N | H3N
reactant | potassium carbonate | 20 cc | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 13 cc | ClCCl | CH2Cl2
product | (3aR,7aR)-2-[1-Imino-2-(2-methoxyphenyl)ethyl]-7,7-diphenylperhydro-4-isoindolone | 1.6 g | N=C(CC1=C(C=CC=C1)OC)N1C[C@H]2C(CCC([C@H]2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O2
